US05948820
(1) 2-(2-Benzyloxyphenyl)ethanol
To a solution of sodium ethoxide (10.8 g) in ethanol (500 ml), 2-(2-hydroxyphenyl)ethanol (20.0 g) and benzyl bromide (24.8 g) were added and the mixture was refluxed under heating for 2 hours. The solvent was distilled away under reduced pressure, water was added thereto and the mixture was extracted with ethyl acetate. The organic layer was washed with a 2M aqueous potassium hydroxide solution and a saturated brine and dried over sodium sulfate. The solvent was distilled away under reduced pressure and the residue was subjected to silica gel chromatography (eluent; hexane-ethyl acetate=8:1) to give the subject compound (27.2 g).

reactant | sodium ethoxide | 10.8 g | [O-]CC.[Na+]
reactant | 2-(2-hydroxyphenyl)ethanol | 20.0 g | OC1=C(C=CC=C1)CCO | C8H10O2
reactant | benzyl bromide | 24.8 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-(2-Benzyloxyphenyl)ethanol | 27.2 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)CCO | C15H16O2
